US04027023
A solution of 5-amino-1,2,3,4-tetrazole (0.425 g.) in dry pyridine (10 ml.) was added to 6-ethylcinnolin-3-yl carbonyl chloride (1.1 g.). The resulting solution was kept at room temperature overnight, and water (50 ml.) and N-hydrochloric acid (50 ml.) were then added. The mixture was filtered, and the solid residue washed with water and crystallised from aqueous dimethylformamide to give 6-ethyl-N-(1,2,3,4-tetrazol-5-yl)cinnolin-3-yl carboxamide, m.p. over 250° C.

reactant | 5-amino-1,2,3,4-tetrazole | 0.425 g | NC1=NN=NN1 | CH3N5
reactant | 6-ethylcinnolin-3-yl carbonyl chloride | 1.1 g | C(C)C=1C=C2C=C(N=NC2=CC1)C(=O)Cl | C11H9ClN2O
reactant | water | 50 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-ethyl-N-(1,2,3,4-tetrazol-5-yl)cinnolin-3-yl carboxamide | C(C)C=1C=C2C=C(N=NC2=CC1)C(=O)NC1=NN=NN1 | C12H11N7O
